US04666502
N-(2,4-dimethyl-thien-3-yl)-N-(4-methyl-5-methylmercapto-1,2,4-triazol-3-yl-methyl)-amine
To a mixture of 9.5 g (0.037 mol) N-(2,4-dimethyl-thien-3-yl)-N-(4-methyl-5-mercapto-1,2,4-triazol-3-yl-methyl)-amine, 1.1 g triethyl-benzyl ammonium chloride in 100 ml toluene and 30 ml aqueous 50% sodium hydroxide solution are added 4.7 g (0.037 mol) dimethylsulfate. The reaction mixture is stirred at room temperature for 5 hours, the organic layer is separated, washed with three 100 ml portions of water, dried over Na2SO4 and evaporated to dryness. The residue is recrystallized twice from ether giving the pure title compound, m.p. 92°-96° C.

reactant | N-(2,4-dimethyl-thien-3-yl)-N-(4-methyl-5-mercapto-1,2,4-triazol-3-yl-methyl)-amine | 0.037 mol, 9.5 g | CC=1SC=C(C1NCC1=NN=C(N1C)S)C | C10H14N4S2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylsulfate | 0.037 mol, 4.7 g | COS(=O)(=O)OC | C2H6O4S
catalyst | triethyl-benzyl ammonium chloride | 1.1 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,4-dimethyl-thien-3-yl)-N-(4-methyl-5-methylmercapto-1,2,4-triazol-3-yl-methyl)-amine | CC=1SC=C(C1NCC1=NN=C(N1C)SC)C | C11H16N4S2
